US07629340B2
(S)-2-(3′-Methylaminomethyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (Compound 6303)
A solution of (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (89.7 mg, 0.20 mmol), (3-bromo-benzyl)-methyl-amine (43.4 mg, 0.22 mmol), and Pd[P(Ph)3]4 (15.4 mg, 6.7 mol %) in methanol (2 mL), NaHCO3 (sat. aq., 300 μL), and DMF (400 μL) was degassed and heated to 70° C. overnight in a sealed vial. The reaction was cooled, filtered, and purified by reverse phase HPLC to give the desired product. The product was then converted to the HCl salt. After dissolving the product in a minimum amount of acetonitrile and cooling the solution in dry ice, 2.0M HCl in diethyl ether was added until precipitate crashed out of solution. The mixture was centrifuged, and the liquid was decanted. Additional cold diethyl ether was added, and the mixture was again centrifuged and the liquid decanted. The resulting solid was dried to give the HCl salt of the desired product. Yield 5.9 mg. MS: 444.2 (M+H+); H1 NMR (DMSO-d6): δ (ppm) 1.80-2.02 (m, 3H), 2.17-2.35 (m, 1H), 2.53-2.64 (t, 3H), 3.39-3.57 (m, 2H), 4.15-4.23 (t, 2H), 4.33-4.44 (m, 1H), 4.60-5.12 (m, 2H), 7.02-7.76 (m, 12H), 8.06-8.12 (m, 1H), 8.78-8.93 (s, 1H), 10.10-10.25 (s, 1H).

reactant | (S)-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.20 mmol, 89.7 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H31BN2O5
reactant | (3-bromo-benzyl)-methyl-amine | 0.22 mmol, 43.4 mg | BrC=1C=C(CNC)C=CC1 | C8H10BrN
reactant | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | NaHCO3 | 300 μL | C(=O)(O)[O-].[Na+]
product | (S)-2-(3′-Methylaminomethyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1C=C(C=CC1)C1=CC(=CC=C1)CNC)=O | C27H29N3O3
